US07227035B2
Synthesis of N-(2-Benzoyl-4-chloro-phenyl)-4-trifluoromethoxy-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-amino-5-chloro-phenyl)-phenyl-methanone and 4-Trifluoromethoxy-benzenesulfonyl chloride. 1H NMR (CDCl3): δ 7.06 (d, J=8.0 Hz, 2H), 7.36 (m, 3H), 7.40–7.44 (m, 2H), 7.49 & 7.52 (dd, J=8.8 Hz, 2.0 Hz, 1H), 7.58–7.62 (m, 1H), 7.70 (d, J=8.8 Hz, 2H), 7.70 (d, J=8.8 Hz, 1H), 9.81 (s, 1H). MS: m/z 456.0 (M++1).

reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 4-Trifluoromethoxy-benzenesulfonyl chloride | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
product | N-(2-Benzoyl-4-chloro-phenyl)-4-trifluoromethoxy-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C20H13ClF3NO4S
